US03978132
To a suspension of 6.73 g. sodium hydride (57% suspension in mineral oil-0.165 mole) in 200 ml. dry dimethylacetamide, there is added dropwise 14.1 g. (0.15 mole) of phenol in 50 ml. dimethylacetamide maintaining the temperature below 25°C. After the addition is complete, the resulting mixture is stirred for 1 1/2 hours at room temperature. A solution of 38.3 g. (0.15 mole) α-bromo-p-pivaloyl toluene in 50 ml. dimethylacetamide is then added dropwise at room temperature and the resulting mixture is stirred for 18 hours at room temperature. The mixture is then treated with 10 ml. of methanol and the solvent removed in vacuo. The resulting residue is partitioned between ether and water, and the ether layer is washed twice with 200 ml. of 2N sodium hydroxide, once with water and once with brine. The organic layers are combined and dried over anhydrous magnesium sulfate, decolorized and evaporated. The resulting solid is triturated with petroleum ether to give p-(phenoxymethyl)pivalophenone, m.p. 79.5° to 80°C.

reactant | sodium hydride | 0.165 mole | [H-].[Na+]
reactant | phenol | 0.15 mole | C1(=CC=CC=C1)O | C6H6O
reactant | α-bromo-p-pivaloyl toluene | 0.15 mole | BrCC1=CC=C(C=C1)C(C(C)(C)C)=O | C12H15BrO
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | p-(phenoxymethyl)pivalophenone | O(C1=CC=CC=C1)CC1=CC=C(C=C1)C(C(C)(C)C)=O | C18H20O2
